US07582760B2
A solution of 3-benzyl-7-(1-tert-butoxycarbonyl-pyrrolidin-3-yl)-2-oxo-2,3-dihydro-benzoimidazole-1-carboxylic acid tert-butyl ester (80 mg., 0.273 mmol) in 5 mL ethanol was heated to reflux and 2 N ethanolic hydrogen chloride was added (0.5 mL.) The reaction mixture was refluxed for 45 minutes at which point ether (2 mL) was added slowly. A solid precipitate formed on cooling and was removed by filtration to afford 40 mg of 1-benzyl-4-pyrrolidin-3-yl-1,3-dihydro-benzoimidazol-2-one hydrochloride as a tan solid. MS: 294 (M+H)+.

reactant | 3-benzyl-7-(1-tert-butoxycarbonyl-pyrrolidin-3-yl)-2-oxo-2,3-dihydro-benzoimidazole-1-carboxylic acid tert-butyl ester | 0.273 mmol, 80 mg | C(C)(C)(C)OC(=O)N1C(N(C2=C1C(=CC=C2)C2CN(CC2)C(=O)OC(C)(C)C)CC2=CC=CC=C2)=O | C28H35N3O5
reactant | hydrogen chloride | 2 N | Cl | ClH
reactant | ether | 2 mL | CCOCC | C4H10O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 1-benzyl-4-pyrrolidin-3-yl-1,3-dihydro-benzoimidazol-2-one hydrochloride | 40 mg | Cl.C(C1=CC=CC=C1)N1C(NC2=C1C=CC=C2C2CNCC2)=O | InChI=1S/C18H19N3O.ClH/c22-18-20-17-15(14-9-10-19-11-14)7-4-8-16(17)21(18)12-13-5-2-1-3-6-13;/h1-8,14,19H,9-12H2,(H,20,22);1H
